US08580841B2
Step A: Preparation of Ethyl 1-(2-Ethoxy-2-oxoethyl)-2-oxocyclopentanecarboxylate.
To a solution of ethyl 2-oxocyclopentanecarboxylate (93.27 g, 597 mmol) and ethyl 2-bromoacetate (144.64 g, 866 mmol) in acetone (1.2 L) was added K2CO3 (165 g, 1194 mmol). The mixture was heated at 56° C. for 24 h. The solid was filtered off and the filtering cake was washed with acetone (3×100 mL). The filtrate was concentrated and the resultant liquid was purified by a silica gel plug to give the title compound as light yellow liquid (54.7 g). LCMS m/z=243.3 [M+H]+; 1H NMR (400 MHz, CDCl3) δ ppm 1.23 (t, J=7.14 Hz, 3H), 1.24 (t, J=7.14 Hz, 3H), 1.95-2.03 (m, 1H), 2.06-2.15 (m, 2H), 2.35-2.50 (m, 2H), 2.55-2.60 (m, 1H), 2.80 (dd, J=15.2, 2.09 Hz, 1H), 2.95 (dd, J=15.2, 2.09 Hz, 1H), 4.09 (q, J=7.14 Hz, 2H), 4.12 (q, J=7.14 Hz, 2H).

reactant | ethyl 2-oxocyclopentanecarboxylate | 597 mmol, 93.27 g | O=C1C(CCC1)C(=O)OCC | C8H12O3
reactant | ethyl 2-bromoacetate | 866 mmol, 144.64 g | BrCC(=O)OCC | C4H7BrO2
reactant | K2CO3 | 1194 mmol, 165 g | C(=O)([O-])[O-].[K+].[K+]
solvent | acetone | 1.2 L | CC(=O)C | C3H6O
product | Ethyl 1-(2-Ethoxy-2-oxoethyl)-2-oxocyclopentanecarboxylate | 54.7 g | C(C)OC(CC1(C(CCC1)=O)C(=O)OCC)=O | C12H18O5
